US09260408B2
[A] 3-Bromo-5-[(S)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-ylmethyl]-pyridine
In analogy to the procedure described for the preparation of intermediates A-12 [B], (S)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine (intermediate A-3 [A]) was reacted with 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A]) in presence of NaH to give the title compound as a yellow solid. MS: 385.2, 387.2 (M+H+).

reactant | (S)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine | C(C)(C)(C)[SiH2]OC([C@H]1NCCC1)(C)C | C11H25NOSi
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
product | 3-Bromo-5-[(S)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-ylmethyl]-pyridine | BrC=1C=NC=C(C1)CN1[C@@H](CCC1)C(O[SiH2]C(C)(C)C)(C)C | C17H29BrN2OSi
